US08106064B2
3-(5-Isopropenyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-benzonitrile (171):
To a solution of 3-[5-isopropenyl-2,6-bis-(2-trimethylsilanyl-ethoxy)-pyrimidine-4-carbonyl]-5-methyl-benzonitrile (0.636 g, 1.28 mmol) in dichloromethane (10 mL) at 0° C. was added TFA (2 mL). Reaction mixture was stirred at 0° C. for 30 min, concentrated and purified by flash column chromatography (silica gel, 0 to 10% methanol/dichloromethane) to give a yellow solid (0.311 g, 82%). 1H NMR (300 MHz, CD3OD): δ 8.11 (s, 1H), 8.03 (s, 1H), 7.88 (s, 1H), 4.91 (s, 1H), 4.75 (s, 1H), 2.49 (s, 3H), 1.82 (s, 3H). Mass spectrum: 296.1 (M+H)+.

reactant | 3-[5-isopropenyl-2,6-bis-(2-trimethylsilanyl-ethoxy)-pyrimidine-4-carbonyl]-5-methyl-benzonitrile | 1.28 mmol, 0.636 g | C(=C)(C)C=1C(=NC(=NC1OCC[Si](C)(C)C)OCC[Si](C)(C)C)C(=O)C=1C=C(C#N)C=C(C1)C | C26H37N3O3Si2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-(5-Isopropenyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-benzonitrile | 0.311 g, 82% | C(=C)(C)C1=C(NC(NC1=O)=O)C(=O)C=1C=C(C#N)C=C(C1)C | C16H13N3O3
